US05026625
A mixture of 64.6 g of 2,4-difluoroaniline, 51.7 g of butyrolactone, 2 g of p-toluenesulphonic acid and a few drops of water is warmed to reflux (100 ° C.) with stirring. The water which forms is removed by distillation via a vigorous stream of nitrogen. During this operation, the internal temperature increases to 162° over the course of 15 hours. After cooling to room temperature, the mixture is diluted with 100 ml of diethyl ether. The ether solution is washed first with 5% strength HCl and then with 10% strength NaOH, dried and evaporated. The crystalline residue is recrystallized from ethanol. The 1-(2,4-difluorophenyl)pyrrolid-2-one obtained melts at 95°-97°.

reactant | 2,4-difluoroaniline | 64.6 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | butyrolactone | 51.7 g | C1(CCCO1)=O | C4H6O2
reactant | p-toluenesulphonic acid | 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
catalyst | water | a few drops | O | H2O
product | 1-(2,4-difluorophenyl)pyrrolid-2-one | FC1=C(C=CC(=C1)F)N1C(CCC1)=O | C10H9F2NO
